US06747023B1
6-(tert-Butoxycarbonyl)-2-methylsulfonyl-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine
To a solution of 6-(tert-butoxycarbonyl)-2-methylthio-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine (2.20 g) in methylene chloride (80 ml) was added metachloroperbenzoic acid (3.37 g). After stirring for 4 hours, a 10% aqueous solution (100 ml) of sodium thiosulfate and a saturated aqueous solution (100 ml) of sodium bicarbonate were added to the reaction mixture and the mixture was separated into layers. The water layer was extracted with methylene chloride (2×50 ml). The organic layers were combined, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column (methylene chloride:acetone=20:1→10:1), whereby the title compound (2.34 g) was obtained as a colorless solid.

reactant | 6-(tert-butoxycarbonyl)-2-methylthio-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine | 2.20 g | C(C)(C)(C)OC(=O)N1CC2=C(N=C(N=C2)SC)CC1 | C13H19N3O2S
reactant | metachloroperbenzoic acid | 3.37 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | 6-(tert-Butoxycarbonyl)-2-methylsulfonyl-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine | C(C)(C)(C)OC(=O)N1CC2=C(N=C(N=C2)S(=O)(=O)C)CC1 | C13H19N3O4S
